US07576086B2
First of all, a mixture of 4-chlorobenzylchlorine and piperazine was treated according to the general preparation 1 to obtain N-(4-chlorobenzyl) piperazine dihydrochloride, yield 65%, mp 278-280° C. Then, a mixture of the above product (5 g, 20 mmol), KHCO3 (70 mmol) and 2-bromo-1-phenylpropan-1-one (3.96 ml, 26 mmol) in 40 ml of ethanol was refluxed for 8 hours, and then treated according to the general preparation 2 to obtain 6.1 g of N1-(4-chlorobenzyl)-N4-(1-benzoylethyl) piperazine dihydrochloride, yield 59.51%, mp 260-262° C. Finally, a mixture of above compound (1.5 g, 3.45 mmol) and KBH4 (0.74 g, 14 mmol) was treated according to the general preparation 3 to obtain the title compound, yield 65%, mp. 240° C.).

reactant | 4-chlorobenzylchlorine | ClC1=CC=C(CCl)C=C1 | C7H6Cl2
reactant | piperazine | N1CCNCC1 | C4H10N2
product | N-(4-chlorobenzyl) piperazine dihydrochloride | yield 65% | Cl.Cl.ClC1=CC=C(CN2CCNCC2)C=C1 | InChI=1S/C11H15ClN2.2ClH/c12-11-3-1-10(2-4-11)9-14-7-5-13-6-8-14;;/h1-4,13H,5-9H2;2*1H
